US06462036B1
Lithium diisopropylamide (27.2 ml of a 2.0M solution in heptane/THF/ethylbenzene) was added dropwise to a stirred solution of 5-methoxyindan-1-one tert-butyloxycarbonylhydrazone (5.0 g) in tetrahydrofuran (150 ml) at −78° C. under nitrogen with stirring. After the addition was complete the mixture was stirred for 1.5 hours at −78° C. and then a solution of ethyl thiophen-2-carboxylate (3.39 g) in tetrahydrofuran (25 ml) was added dropwise. The mixture was stirred at −78° C. for 1.5 hours and then allowed to warm to ambient temperature. After 30 minutes the reaction mixture was quenched by the addition of saturated ammonium chloride solution and the layers were separated. The aqueous phase was extracted with ether. The combined organic phases were washed with 2M hydrochloric acid, dried, filtered and evaporated to give a residue which was dissolved in dichloromethane (100 ml) and trifluoroacetic acid (0.35 ml) was added. The mixture was stirred under a nitrogen atmosphere at ambient temperature and then purified by flash column chromatography using ethyl acetate/petroleum ether b.p 60-80° C. (4:1) as the mobile phase to give 6-methoxy-2-tert-butyloxycarbonyl-3-(2-thienyl)-1,4-dihydroindeno[1,2-c]pyrazole.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-methoxyindan-1-one tert-butyloxycarbonylhydrazone | 5.0 g | C(C)(C)(C)OC(=O)NN=C1CCC2=CC(=CC=C12)OC | C15H20N2O3
reactant | ethyl thiophen-2-carboxylate | 3.39 g | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | trifluoroacetic acid | 0.35 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-methoxy-2-tert-butyloxycarbonyl-3-(2-thienyl)-1,4-dihydroindeno[1,2-c]pyrazole | COC=1C=C2CC3=C(NN(C3C=3SC=CC3)C(=O)OC(C)(C)C)C2=CC1 | C20H22N2O3S
